US04861787
2-difluoromethylthio-5-thienyl-1,3,4-thiadiazole
6.0 g of 2-mercapto-5-thienyl-1,3,4-thiadiazole and 45 ml of dioxan are added, while stirring, to a solution of 2.9 g of potassium hydroxide in 10 ml of water. After the addition of 0.2 g of potassium iodide and 0.1 g of tetrabutylammonium bromide the mixture is heated to 40° C. and, while stirring vigorously, a weak stram of chlorodifluoromethane is introduced for a period of 3 hours. The reaction mixture is then concentrated by evaporation in vacuo. The residue is taken up in methylene chloride and extracted by washing in succession with water and 1N sodium hydroxide solution. Evaporation of the solvent yields the title compound (recrystallised from cyclohexane) in the form of colourless crystals having a melting point of 63°-64° C.

reactant | 2-mercapto-5-thienyl-1,3,4-thiadiazole | 6.0 g | SC=1SC(=NN1)C=1SC=CC1 | C6H4N2S3
reactant | potassium hydroxide | 2.9 g | [OH-].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | water | 10 ml | O | H2O
catalyst | tetrabutylammonium bromide | 0.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxan | 45 ml | O1CCOCC1 | C4H8O2
product | 2-difluoromethylthio-5-thienyl-1,3,4-thiadiazole | FC(SC=1SC(=NN1)C=1SC=CC1)F | C7H4F2N2S3
